US08912188B2
To a solution of methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (150 mg, 0.51 mmol) in 1,4-dioxane (5.0 mL) and water (3 drops) was added 3-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1-[tris(propan-2-yl)silyl]-1H-pyrrole (356 mg, 1.02 mmol), Pd(PPh3)4 (29.4 mg, 0.03 mmol), and sodium carbonate (108.1 mg, 1.01 mmol) with stirring for 1 hour at 90° C. under an atmosphere of nitrogen. The resulting mixture was concentrated under vacuum to give a residue, which was purified by silica gel chromatography (1% ethyl acetate in petroleum ether) to give methyl 3-[methyl(propan-2-yl)amino]-2-[1-[tris(propan-2-yl)silyl]-1H-pyrrol-3-yl]quinoxaline-6-carboxylate as a yellow solid (130 mg, 53%).

reactant | methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.51 mmol, 150 mg | ClC1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)OC | C14H16ClN3O2
reactant | 3-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1-[tris(propan-2-yl)silyl]-1H-pyrrole | 1.02 mmol, 356 mg | CC1(C(OB(O1)C1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C)(C)C)C | C19H36BNO2Si
reactant | sodium carbonate | 1.01 mmol, 108.1 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | water | 3 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmol, 29.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-[methyl(propan-2-yl)amino]-2-[1-[tris(propan-2-yl)silyl]-1H-pyrrol-3-yl]quinoxaline-6-carboxylate | 130 mg, 53% | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C)C(C)C | C27H40N4O2Si
